Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
Left heart catheterization s/p PCI on ___

 
History of Present Illness:
Mr. ___ is a ___ man
with a history of hypertension, hyperlipidemia and prostate
cancer s/p combination therapy with external beam and 
radioactive
seed implant boost with hormonal therapy (treatment completed
___ who presents with chest pain. He reports left arm 
pain
with jogging two days ago that went away after completion of his
2.5 mile walk/run. On the day of presentation he was again
running and noticed the same left arm pain but this time it
persisted and radiated to the chest. The pain did not go away
with rest and he felt extremely lethargic. He completed the day
at work and then presented to the ED for further evaluation. The
pain was associated with nausea and diaphoresis. He denies
vomiting, cough, fever, shortness of breath, chills, leg
swelling. He did take a 5 hour long car trip over the weekend. 
No
personal history of blood clots.  

On the floor he denies any chest pain. He says that he saw his
PCP ___ ___ and was diagnosed with a chalazion and given
erythromycin eye ointment. He was also given a script for
cephalexin if redness got worse. He was still having pain and
discomfort yesterday so he decided to start the antibiotics with
hopes it would resolve more quickly. He has been running several
times a week for the last 9 months without any episodes of chest
pain/shortness of breath. 

 
Past Medical History:
1. CARDIAC RISK FACTORS
- Pre-diabetes
- Hypertension
- Dyslipidemia
2. CARDIAC HISTORY
- CABG: None
- PERCUTANEOUS CORONARY INTERVENTIONS: None
- PACING/ICD: None
3. OTHER PAST MEDICAL HISTORY
- Prostate cancer 
- Gout 
- CKD 

 
Social History:
___
Family History:
Father had several MIs, first at age ___ and eventually died from
an MI at age ___. Sister died from complications of a stroke at
age ___. Mother is living and healthy. 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:
=============================
VS: 98.2F, BP 126/80, HR 64, RR 18, 95% on RA
GENERAL: NAD
HEENT: AT/NC, anicteric sclera, MMM, chalazion present on lower
lid of right eye with minimal surrounding erythema 
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, obese, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAMINATION
===============================
Vitals:   ___ 0353 Temp: 98.1 PO BP: 108/73 L Sitting HR: 
66
RR: 16 O2 sat: 97% O2 delivery: RA 
General:  WDWN middle aged male in NAD, reclining in bed.
Neck: JVP not elevated 
Lungs:  Speaking in full sentences, normal WOB on RA. LCTAB. No
wheezing, rhonchi, rales.
CV:  RRR, distant heart sounds. Normal S1, S2. No murmurs
appreciated.
Abdomen:  Soft, nontender, nondistended.
Ext:  Warm well-perfused. 2+ peripheral pulses. No ___ edema.

 
Pertinent Results:
ADMISSION LABS
===============
___ 09:28PM BLOOD WBC-8.5 RBC-4.65 Hgb-12.9* Hct-40.9 
MCV-88 MCH-27.7 MCHC-31.5* RDW-14.2 RDWSD-45.7 Plt ___
___ 09:28PM BLOOD Neuts-89.4* Lymphs-6.3* Monos-3.9* 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-7.61* AbsLymp-0.54* 
AbsMono-0.33 AbsEos-0.00* AbsBaso-0.02
___ 09:28PM BLOOD ___ PTT-24.6* ___
___ 09:28PM BLOOD Glucose-119* UreaN-20 Creat-1.4* Na-141 
K-4.6 Cl-102 HCO3-29 AnGap-10
___ 09:28PM BLOOD CK(CPK)-340*
___ 09:28PM BLOOD CK-MB-31* MB Indx-9.1*
___ 09:28PM BLOOD cTropnT-0.10*

___ 05:55AM BLOOD CK-MB-83* cTropnT-0.59*

DISCHARGE LABS
==============
___ 07:18AM BLOOD WBC-5.0 RBC-4.53* Hgb-12.9* Hct-39.5* 
MCV-87 MCH-28.5 MCHC-32.7 RDW-14.2 RDWSD-45.2 Plt ___
___ 07:18AM BLOOD ___ PTT-26.1 ___
___ 07:18AM BLOOD Glucose-97 UreaN-19 Creat-1.3* Na-142 
K-4.5 Cl-102 HCO3-26 AnGap-14
___ 07:18AM BLOOD Calcium-9.3 Phos-3.7 Mg-2.0

IMAGING
=========
___ CXR
IMPRESSION:
No acute cardiopulmonary process. 

___ TTE
CONCLUSION:
The left atrial volume index is normal. The right atrium is 
mildly enlarged. There is normal left ventricular wall thickness 
with a normal cavity size. A left ventricular thrombus/mass 
cannot be excluded. Overall left ventricular systolic function 
is moderately depressed secondary to global hypokinesis with 
focal akinesis of the inferior and posterior walls. The visually 
estimated left ventricular ejection fraction is 35%. There is no 
resting left ventricular outflow tract gradient. Mildly dilated 
right ventricular cavity with SEVERE global free wall 
hypokinesis. The aortic sinus is mildly dilated with mildly 
dilated ascending aorta. The aortic arch diameter is normal. The 
aortic valve leaflets (3) are
mildly thickened. There is no aortic valve stenosis. There is no 
aortic regurgitation. The mitral valve leaflets appear 
structurally normal with no mitral valve prolapse. There is 
trivial mitral regurgitation.
The tricuspid valve leaflets appear structurally normal. There 
is physiologic tricuspid regurgitation. The estimated pulmonary 
artery systolic pressure is normal. There is no pericardial 
effusion.
IMPRESSION: probable multivessel obstructive coronary artery 
disease

___ CARDIAC CATH REPORT
Coronary Description
The coronary circulation is right dominant.
- LM: The Left Main, arising from the left cusp, is a large 
caliber vessel. This vessel bifurcates into the Left Anterior 
Descending and Left Circumflex systems.
- LAD: The Left Anterior Descending artery, which arises from 
the LM, is a large caliber vessel. The Septal Perforator, 
arising from the proximal segment, is a small caliber vessel. 
The Diagonal, arising from the proximal segment, is a medium 
caliber vessel.
- Cx: The Circumflex artery, which arises from the LM, is a 
large caliber vessel. The ___ Obtuse Marginal, arising from the 
proximal segment, is a medium caliber vessel. The ___ Obtuse 
Marginal, arising from the mid segment, is a medium caliber 
vessel.
- RCA: The Right Coronary Artery, arising from the right cusp, 
is a large caliber vessel. There is a 5mm X 30mm drug-eluting 
stent (___) in the proximal segment. There is a 100% 
stenosis in the proximal segment. There is a moderate thrombus 
in the proximal segment. The Acute Marginal, arising from the 
proximal segment, is a small caliber vessel. The Right Posterior 
Descending Artery, arising from the distal segment, is a medium 
caliber vessel. The Right Posterolateral Artery, arising from 
the distal segment, is a medium caliber vessel.

 
Brief Hospital Course:
PATIENT SUMMARY
================
Mr. ___ is a ___ man with a history of hypertension, 
hyperlipidemia, sarcoidosis and prostate cancer who presented 
with exertional chest pain and troponin elevation consistent 
with type I NSTEMI. Echo showed reduced EF of 35% with 
inferolateral akinesis and global hypokinesis. He underwent LHC 
with PCI on ___ with DES to proximal RCA, which had 100% 
occlusion. 

ACUTE ISSUES
===========
#Type I NSTEMI
#CHEST PAIN. Patient presents with chest pain on exertion and 
elevation of cardiac enzymes to 0.59, no ischemic ECG changes. 
Started on heparin gtt and maintained chest pain free until left 
heart catheterization on ___. One DES was placed to the 
proximal RCA without complication. He was started on ticagrelor, 
aspirin, and atorvastatin.

#HFrEF (35%)
Newly discovered on TTE this admission, unknown baseline, but 
suspected secondary to acute ACS. Echo noted SEVERE global free 
wall hypokinesis. Normal left ventricular wall thickness with a 
normal cavity size. Overall left ventricular systolic function 
is moderately depressed secondary to global hypokinesis with 
focal akinesis of the inferior and posterior walls. Likely 
ischemic cardiomyopathy in the setting of proximal RCA 
occlusion. Patient also had possible pulmonary sarcoidosis in 
past, so cannot rule out cardiac sarcoid in addition to 
ischemia. Patient was started on metoprolol, and continued home 
lisinopril at reduced dose. 

#Hordeolum(stye). 
Diagnosed with a chalazion by PCP however on exam appears more 
consistent with stye. Patient started PO antibiotics due to 
ongoing pain and discomfort however on exam does not appear to 
be secondarily infected. Conitnued Erythromycin drops BID and 
warm compress to eye 4x daily.

CHRONIC ISSUES
===============
#CKD. 
Creatinine at baseline, 1.3-1.5. Gently hydrated pre/post cath.

#Hypertension 
Held ACEI prior to cath, then restarted on reduced dose as BP 
was well controlled.

TRANSITIONAL ISSUES
===================
Discharge weight: 118.7 kg
Discharge Cr: 1.3

[ ] Continue Ticagrelor (Brilinta) for 12 months minimum. Do not 
hold for any procedure.
[ ] Continue aspirin indefinitely 
[ ] Continue atorvastatin 80 mg
[ ] Discontinued PDE-5 inhibitor as SL nitro was prescribed PRN.
[ ] Recommend repeat TTE in ___

#CODE STATUS: full
#CONTACT: wife ___ ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Erythromycin 0.5% Ophth Oint 0.5 in BOTH EYES BID 
2. Lisinopril 10 mg PO DAILY 
3. Simvastatin 20 mg PO QPM 
4. Cialis (tadalafil) 20 mg oral ___ hours before sex 
5. Cephalexin 1000 mg PO Q12H  START ONLY IF EYELID REDNESS 
WORSENS  

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
4.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
RX *nitroglycerin 0.3 mg 1 tablet(s) sublingually every 5 
minutes Disp #*1 Package Refills:*0 
5.  TiCAGRELOR 90 mg PO BID to prevent stent thrombosis 
Duration: 30 Days 
RX *ticagrelor [Brilinta] 90 mg 1 tablet(s) by mouth twice daily 
Disp #*60 Tablet Refills:*0 
6.  Lisinopril 2.5 mg PO DAILY 
RX *lisinopril 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
7.  Cephalexin 1000 mg PO Q12H  START ONLY IF EYELID REDNESS 
WORSENS   
8.  Erythromycin 0.5% Ophth Oint 0.5 in BOTH EYES BID  
9. HELD- Cialis (tadalafil) 20 mg oral ___ hours before sex  
This medication was held. Do not restart Cialis until you 
discuss with your regular doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
================
Type I NSTEMI

SECONDARY DIAGNOSES
==================
Ischemic Cardiomyopathy
Hypertension
Chronic Kidney Disease 
Chalazion

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
  
It was a pleasure taking care of you at the ___ 
___! 
 
WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you had a heart attack  

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
-  Your heart arteries were examined (cardiac catheterization) 
which showed a blockage of one of the arteries. This was opened 
by placing a tube called a stent in the artery. You were given 
medications to prevent future blockages.  
- It is very important to take your aspirin and ticagrelor (also 
known as Brilinta) every day.  
- These two medications keep the stents in the vessels of the 
heart open and help reduce your risk of having a future heart 
attack.  
- If you stop these medications or miss ___ dose, you risk causing 
a blood clot forming in your heart stents and having another 
heart attack  
- Please do not stop taking either medication without taking to 
your heart doctor.  
- You are also on other new medications to help your heart, 
including metoprolol and atorvastatin. 
- You should also continue taking your lisinopril at a decreased 
dose.

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Please take all medicines as prescribed and follow up with 
your doctors. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  
Your ___ Healthcare Team  
 
Followup Instructions:
___